US04487626
4-Chloro-6-methylfuro[2,3-d]pyrimidin-2-amine (IIIb, Y=CH3)
To a mixture of 80 ml t-butanol and 60 ml water was added 6.0 g of 4,6-dichloro-5-(2-propynyl)-2-pyrimidinamine followed by 30 ml of 2N sodium hydroxide. After heating to reflux (ca 70°) for 20 hours, the mixture was cooled and the solid product was collected by filtration. The yield of product was 1.8 g, m.p. 255°-257°. An NMR (60 MHz) spectrum in trifluoroacetic acid solution exhibited absorptions at 2.8 (doublet) and 6.6 (triplet) ppm in a 3 to 1 ratio indicating the title compound.

reactant | t-butanol | 80 ml | C(C)(C)(C)O | C4H10O
reactant | 4,6-dichloro-5-(2-propynyl)-2-pyrimidinamine | 6.0 g | ClC1=NC(=NC(=C1CC#C)Cl)N | C7H5Cl2N3
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
product | 4-Chloro-6-methylfuro[2,3-d]pyrimidin-2-amine | ClC=1C2=C(N=C(N1)N)OC(=C2)C | C7H6ClN3O
